US07683056B2
1,1-Dimethylethyl (2R)-2-{[(chloroacetyl)amino]methyl}-1-pyrrolidinecarboxylate (D13)
DIPEA (1.34 ml, 7.5 mmol) was added to a solution of 1,1-dimethylethyl (2R)-2-(aminomethyl)-1-pyrrolidinecarboxylate (1 g, 5 mmol) in 50 ml of DCM; then chloroacetyl chloride (0.418 ml, 5.25 mmol) was slowly added and the reaction mixture stirred 1 h before being worked up. DCM was added and the organic phase was washed with a saturated solution of ammonium chloride. The crude was purified by flash chromatography eluting with cyclohexane/ethyl acetate 8/2 affording 1.28 g of the target material.

reactant | DIPEA | 7.5 mmol, 1.34 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1,1-dimethylethyl (2R)-2-(aminomethyl)-1-pyrrolidinecarboxylate | 5 mmol, 1 g | NC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | chloroacetyl chloride | 5.25 mmol, 0.418 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl (2R)-2-{[(chloroacetyl)amino]methyl}-1-pyrrolidinecarboxylate | ClCC(=O)NC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C12H21ClN2O3
